Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Motor vehicle collision
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo male transferred via MES from hospital in ___ after ___. 
Patient was restrained driver in ___. No head trauma or LOC. Had 
imaging of head, neck and torso prior to transfer. ? 
intraabdominal fluid on CT. Abrasions to arms. Abrasion and 
ecchymosis to LLL/L hip. No paresthesias, no weakness. No HA, 
visual changes, neck pain. No CP, SOB.

 
Past Medical History:
PTSD/anxiety
Chronic back pain with parethesias left leg
Laparoscopic cholecystectomy
Left inguinal hernia repair
 
Social History:
___
Family History:
N/C
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION (___)
 
Temp: 98.4 HR: 88 BP: 128/86 Resp: 18 O(2)Sat: 97 Normal
Constitutional: uncomfortable
HEENT: Normocephalic, atraumatic, Pupils equal, round and 
reactive to light, Extraocular muscles intact Oropharynx within 
normal limits, no midline C spine
tenderness
Chest: no chest wall tenderness
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nondistended, lower abdominal pain
GU/Flank: diffuse lumbar pain
Extr/Back: No cyanosis, clubbing or edema, + pulses, FROM, no 
deformity
Skin: abrasions to hands and arms, abrasion and ecchymosis L 
hip/LLQ
Neuro: Speech fluent, GCS 15, full strength
Psych: Normal mood, Normal mentation
___: No petechiae

PHYSICAL EXAMINATION ON DISCHARGE (___)
 
Temp: 97.2 HR: 76 BP: 136/76 Resp: 18 O(2)Sat: 99 Normal
Constitutional: AAOX3, no acute distress
HEENT: Normocephalic, atraumatic, Pupils equal, round and 
reactive to light, extraocular muscles intact, oropharynx within 
normal limits, no midline C spine
tenderness
Chest: no chest wall tenderness
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nondistended, mild lower abd pain (___)
GU/Flank: mild diffuse lumbar pain
Extr/Back: No cyanosis, clubbing or edema, + pulses, FROM, no 
deformity
Skin: abrasions to hands and arms, abrasion and ecchymosis L 
hip/LLQ
Neuro: Speech fluent, GCS 15, full strength
Psych: Normal mood, Normal mentation
___: No petechiae
 
Pertinent Results:
LAB TESTS

___ 10:35AM BLOOD WBC-8.0 RBC-4.27* Hgb-14.1 Hct-41.9 
MCV-98 MCH-33.0* MCHC-33.7 RDW-13.0 RDWSD-45.8 Plt ___
___ 07:00PM BLOOD WBC-15.0* RBC-4.40* Hgb-14.6 Hct-43.8 
MCV-100* MCH-33.2* MCHC-33.3 RDW-13.1 RDWSD-47.9* Plt ___
___ 07:00PM BLOOD Neuts-79.9* Lymphs-11.0* Monos-7.7 
Eos-0.5* Baso-0.4 Im ___ AbsNeut-11.99* AbsLymp-1.65 
AbsMono-1.16* AbsEos-0.07 AbsBaso-0.06
___ 07:00PM BLOOD ___ PTT-23.5* ___
___ 07:00PM BLOOD Glucose-97 UreaN-14 Creat-1.0 Na-139 
K-4.1 Cl-102 HCO3-25 AnGap-16
___ 07:06PM BLOOD Lactate-1.9

IMAGING

ELBOW XRAY (___)
IMPRESSION:  
No acute osseous abnormality of the left elbow.  Mild soft 
tissue swelling of the posterior elbow. 

 
Brief Hospital Course:
The patient presented to Emergency Department on ___ 
transferred from outside hospital. Upon arrival to ED the 
patient was evaluated for abdominal pain. Several imaging 
studies were done in the outside hospital including imaging of 
head, neck and torso which were negative. The patient was 
admitted to the floor for pain control
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with PO oxycodone 
and tylenol and intravenous dilaudid for breakthrough pain and 
then transitioned to oral oxycodone and tylenol. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: Patient was initially placed on an NPO diet, but 
rapidly advanced to a regular diet and always had bathroom 
privileges. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay and was encouraged to 
get up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
alprazolam 0.25 mg BID
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth q ___ hours Disp #*30 
Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*0 
5.  ALPRAZolam 0.25 mg PO BID:PRN anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Motor vehicle collision

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were transferred to ___ from an outside hospital for 
further evaluation and monitoring following a motor vehicle 
collision.  Several studies were performed at the outside 
hospital and were normal with the exception of a small amount of 
fluid within your abdominal cavity. You abdominal exam has 
remained stable throughout your hospitalization and you have 
been able to tolerate a regular diet.  Additionally, your blood 
counts have remained stable, therefore, you are now preparing 
for discharge to home with the following instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Difficulty walking/ bearing weight on legs, new numbness or 
weakness of your extremities.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 

Avoid driving or operating heavy machinery while taking pain 
medications.

Of note, incidental nodules within your lung and thyroid gland 
were noted and will require follow-up by your primary care 
provider.
 
Followup Instructions:
___